US07285551B2
Step 1: Production of 4-(4-fluorophenyl)-5-hydroxymethyl-2-methylthiazole
Ethyl 4-(4-fluorophenyl)-2-methyl-5-thiazolecarboxylate (59 g) prepared by a known method (Chem. Pharm. Bull., 43(6), 947, 1995) was dissolved in tetrahydrofuran (700 ml). Lithium aluminum hydride (13 g) was added under ice-cooling and the mixture was stirred for 30 min. Water (13 ml), 15% sodium hydroxide (13 ml) and water (39 ml) were added successively to the reaction mixture, and the precipitated insoluble materials were filtered off. The filtrate was concentrated under reduced pressure to give the title compound (37 g, yield 71%).

reactant | Ethyl 4-(4-fluorophenyl)-2-methyl-5-thiazolecarboxylate | 59 g | FC1=CC=C(C=C1)C=1N=C(SC1C(=O)OCC)C | C13H12FNO2S
reactant | Lithium aluminum hydride | 13 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | Water | 13 ml | O | H2O
reactant | sodium hydroxide | 13 ml | [OH-].[Na+]
reactant | water | 39 ml | O | H2O
solvent | tetrahydrofuran | 700 ml | O1CCCC1 | C4H8O
product | 4-(4-fluorophenyl)-5-hydroxymethyl-2-methylthiazole | 37 g, yield 71% | FC1=CC=C(C=C1)C=1N=C(SC1CO)C | C11H10FNOS
